US07645776B2
3-Oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonitrile
24 mmol of 4-Hydroxy-3-nitrobenzonitrile were dissolved in DMF. 1.1 eq of Cs2CO3 were added and the reaction stirred at rt for 15 min. 1.5 eq of ethylbromo acetate were added and the reaction mixture heated to 50° C. for 2 h. The intermediate was isolated via extraction from ethylacetate/water. The organic layer was separated and dried over Na2SO4. After evaporation the resulting solid was redissolved in MeOH and sat. NH4Cl (1:1). 8 g of Zn powder were added and the suspension stirred at rt for 2 h. The solid was filtered off and the organic layer evaporated. Ethylacetate was added and the organic layer washed with sat. NaHCO3. The organic layer was separated again, dried over Na2SO4 and reduced resulting in a light brown solid. MS(ISO): 175.2 (MH+)

reactant | 4-Hydroxy-3-nitrobenzonitrile | 24 mmol | OC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H4N2O3
reactant | Cs2CO3 | 1.1 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethylacetate water | C(C)OC(C)=O.O
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-Oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonitrile | O=C1COC2=C(N1)C=C(C=C2)C#N | C9H6N2O2
